US05262540
A mixture of methyl 3-[3-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]-2-propenoate (3 g, 7.2 mmol), 5N sodium hydroxide solution (4.40 mL) and methanol (60 mL) was heated to reflux. After 30 minutes, the mixture was cooled, concentrated, diluted with water and acidified to pH=1 with 2N hydrochloric acid solution. A yellow solid was filtered off and recyrstallized from a mixture of hexanes and CH2Cl2 to give 3-[3-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]-2-propenoic acid (2.25 g, 77%), mp 145°-147° C.

reactant | methyl 3-[3-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]-2-propenoate | 7.2 mmol, 3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)COC=1C=C(C=CC1)C=CC(=O)OC | C26H21NO4
reactant | sodium hydroxide | 5N, 4.40 mL | [OH-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | 3-[3-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]-2-propenoic acid | 2.25 g, 77% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)COC=1C=C(C=CC1)C=CC(=O)O | C25H19NO4
